
.include osu018.lib

m2  d_bar d net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m1  d_bar d gnd gnd CMOSN w=0.4u l=0.18u

m4  net1 d net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m10  net1 clk net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m6  net1 d net-_m6-pad3_ gnd CMOSN w=0.4u l=0.18u
m8  net-_m6-pad3_ clk gnd gnd CMOSN w=0.4u l=0.18u
m12  q net1 net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m18  q qb net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m14  q net1 net-_m14-pad3_ gnd CMOSN w=0.4u l=0.18u
m16  net-_m14-pad3_ qb gnd gnd CMOSN w=0.4u l=0.18u
m3  net2 d_bar net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m9  net2 clk net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m5  net2 d_bar net-_m5-pad3_ gnd CMOSN w=0.4u l=0.18u
m7  net-_m5-pad3_ clk gnd gnd CMOSN w=0.4u l=0.18u
m11  qb net2 net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m17  qb q net-_m10-pad3_ net-_m10-pad3_ CMOSP w=0.8u l=0.18u
m13  qb net2 net-_m13-pad3_ gnd CMOSN w=0.4u l=0.18u
m15  net-_m13-pad3_ q gnd gnd CMOSN w=0.4u l=0.18u


v3 net-_m10-pad3_ gnd  dc 1.8V
v2  d gnd pulse(0 1.8V 0 10ps 10ps 10ns 20ns)
v1  clk gnd pulse(0 1.8V 0 10ps 10ps 50ns 100ns)

.tran 10e-09 100e-09 0e-09

* Control Statements 
.control
run
plot v(clk)+6 v(d)+4 v(q)+2 v(qb)
.endc
.end
