*circuit for hold state i.e when wl=0

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 q qbar net-_m1-pad3_ net-_m1-pad3_ CMOSP W=0.36u L=0.18u M=1
m4 qbar q net-_m1-pad3_ net-_m1-pad3_ CMOSP W=0.36u L=0.18u M=1
m2 q qbar gnd gnd CMOSN W=0.72u L=0.18u M=1
m3 qbar q gnd gnd CMOSN W=0.72u L=0.18u M=1
v2  net-_m1-pad3_ gnd 1.8v
v1 q gnd  dc 1.8V
.dc v1 0e-00 1.8e-00 0.05e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot  v(qbar) vs v(q) v(q) vs v(qbar)
.endc
.end 
